US06187842B1
A 500 ml four-necked flask was charged with a 70 wt % aqueous solution of 52 g (0.20 mole) of D-sorbitol, 35.0 g (0.20 mole) of 3,4-dichlorobenzaldehyde and 6 g of 50 wt % sulfuric acid. The air inside the system was replaced with nitrogen gas. The contents of the flask were stirred at a temperature of 21° C. for 6 hours. The obtained reaction mixture was analyzed by GC. It was found that mono(3,4-dichlorobenzylidene)-D-sorbitol was produced in a yield of 70% and 0.5% or less of bis(3,4-dichlorobenzylidene)-D-sorbitol was also produced. After standing for 24 hours, the reaction mixture was neutralized for 2 hours using 8.6 g of potassium hydroxide, and filtered to obtain cake. The cake was dispersed in 150 ml of toluene and was filtered again. After drying at 100° C. under a pressure ranging from normal pressure to 5 mmHg for 7 hours, 19.7 g of 2,4-O-(3,4-dichlorobenzylidene)-D-sorbitol was obtained with a purity of 99.2% as measured by GC (yield 29.2%). The product had a melting point of 202 to 205° C.

reactant | D-sorbitol | 0.20 mole, 52 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | 3,4-dichlorobenzaldehyde | 0.20 mole, 35.0 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | mono(3,4-dichlorobenzylidene)-D-sorbitol | ClC=1C=C(C=C(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)C=CC1Cl | C13H16Cl2O6
product | bis(3,4-dichlorobenzylidene)-D-sorbitol | 0.5% or less | ClC=1C=C(C=C([C@H]([C@H]([C@@H]([C@H](C(O)=CC2=CC(=C(C=C2)Cl)Cl)O)O)O)O)O)C=CC1Cl | C20H18Cl4O6
